US06846819B1
b) (E)-N-methyl-N-(1-methyl-1H-indol-2-ylmethyl)-3-(2-oxo-1,4-dihydro-2H-pyrido[2,3-d]-1,3-oxazin-6yl)acrylamide
To a stirred solution of N-methyl-N-(1-methyl-1H-indol-2-ylmethyl)acrylamide (1.19 g, 5.2 mmole) in propionitrile (50 nL) was added 6-bromo-2-oxo-1,4-dihydro-2H-pyrido[2,3-d]-1,3-oxazine (1.1 g, 4.9 mmole), DIEA (1.75 mL, 10 mmole), palladium(II) acetate (112 mg, 0.5 mmole), and tri-o-tolylphosphine (304 mg, 1.0 mmole). The reaction was purged with argon and heated at reflux for 16 hr, then was cooled to RT and concentrated under vacuum. The residue was taken up in CHCl3 and the solution was filtered through a pad of silica gel (3% methanol/CHCl3). The filtrate was concentrated and the residue was triturated with ethyl acetate, collected by suction filtration, and dried under vacuum gave the title compound (1.02 g, 55%) as an off-white solid: LCMS (ES) m/e 377.4 (M+H)+.

reactant | N-methyl-N-(1-methyl-1H-indol-2-ylmethyl)acrylamide | 5.2 mmole, 1.19 g | CN(C(C=C)=O)CC=1N(C2=CC=CC=C2C1)C | C14H16N2O
reactant | 6-bromo-2-oxo-1,4-dihydro-2H-pyrido[2,3-d]-1,3-oxazine | 4.9 mmole, 1.1 g | BrC1=CC2=C(NC(OC2)=O)N=C1 | C7H5BrN2O2
reactant | DIEA | 10 mmole, 1.75 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | tri-o-tolylphosphine | 1.0 mmole, 304 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
solvent | propionitrile | 50 nL | C(CC)#N | C3H5N
catalyst | palladium(II) acetate | 0.5 mmole, 112 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (E)-N-methyl-N-(1-methyl-1H-indol-2-ylmethyl)-3-(2-oxo-1,4-dihydro-2H-pyrido[2,3-d]-1,3-oxazin-6yl)acrylamide | 1.02 g, 55% | CN(C(\C=C\C1=CC2=C(NC(OC2)=O)N=C1)=O)CC=1N(C2=CC=CC=C2C1)C | C21H20N4O3
